US07842685B2
1-(2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)-1-cyclobutyl-2-(trimethylsilyl)ethanol (355.8 mg, 0.731 mmol) in THF (10.0 mL) was carefully added dropwise to potassium hydride (30 wt % in mineral oil; 293 mg, 2.193 mmol) (washed with hexanes (1×5 mL) to remove mineral oil) at 0° C. The resulting solution was heated at 65° C. for 3 h, and excess potassium hydride was then quenched by the sequential addition of water (4 mL) and sat. aq. NH4Cl (4 mL). THF was removed in vacuo, and the resulting mixture was diluted with EtOAc (100 mL) and sequentially washed with sat. aq. NH4Cl and brine. The combined aqueous layers were extracted with EtOAc, and all organic layers were then combined, dried over sodium sulfate, filtered, and concentrated in vacuo. Chromatographic purification of the residue (silica gel, 0-30% EtOAc/hexanes) furnished 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutylvinyl)-thiazolo[5,4-b]pyridine as a white solid. MS (ESI) m/z: Calculated: 396.1; Observed: 397.1 (M++1).

reactant | 1-(2-(4-(1,3-Dioxan-2-yl)-2-fluorophenyl)thiazolo[5,4-b]pyridin-5-yl)-1-cyclobutyl-2-(trimethylsilyl)ethanol | 0.731 mmol, 355.8 mg | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(C[Si](C)(C)C)(O)C1CCC1)F | C25H31FN2O3SSi
reactant | potassium hydride | 2.193 mmol, 5 mL, 293 mg | [H-].[K+]
solvent | THF | 10.0 mL | C1CCOC1 | C4H8O
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-cyclobutylvinyl)-thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(=C)C1CCC1)F | C22H21FN2O2S
